US05236924
18.4 g of 4-benzylphenol was dissolved in 100 ml of anhydrous tetrahydrofuran and 4.0 g of sodium hydride (60 % oil dispersion) was gradually added to the solution with ice cooling :n nitrogen stream. The solution was stirred for 1 hour at room temperature and 12.0 g of bromoacetonitrile was added thereto under ice cooling, followed by refluxing with heating for 3 hours. After being left for cooling, the reaction mixture was concentrated under reduced pressure and to the residue was added 100 ml of water, followed by extracting twice with 100 ml of chloroform. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain an oily residue. The residue was chromatographed on a silica gel column (eluting solvent hexane : acetone=3 : 1 (v/v)) to obtain 19.1 g of (4-benzylphenoxy)acetonitrile.

reactant | 4-benzylphenol | 18.4 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)O | C13H12O
reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | bromoacetonitrile | 12.0 g | BrCC#N | C2H2BrN
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (4-benzylphenoxy)acetonitrile | 19.1 g | C(C1=CC=CC=C1)C1=CC=C(OCC#N)C=C1 | C15H13NO
